US04154852
A mixture of 26 ml of fuming hydrochloric acid, 3.9 g of stannous chloride dihydrate and 1.3 g of 2-nitro-7-methylamino-6,7-dihydro [5H] benzocycloheptene hydrochloride was stirred at room temperature for 16 hours and was then cooled to 10° C. for the addition of 100 ml of water. The mixture was made alkaline at 10° C. with concentrated ammonium hydroxide and was then extracted 3 times with 50 ml of methylene chloride. The organic extracts were washed with water, dried over sodium sulfate and evaporated to dryness under reduced pressure to obtain 1 g of 2-amino-7-methylamino-6,7-dihydro [5H] benzocycloheptene in the form of a brown oil.

reactant | hydrochloric acid | 26 ml | Cl | ClH
reactant | 2-nitro-7-methylamino-6,7-dihydro [5H] benzocycloheptene hydrochloride | 1.3 g | Cl.[N+](=O)([O-])C=1C=CC2=C(C=CC(CC2)NC)C1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 100 ml | O | H2O
product | 2-amino-7-methylamino-6,7-dihydro [5H] benzocycloheptene | 1 g | NC=1C=CC2=C(C=CC(CC2)NC)C1 | C12H16N2
